US04453972
(a) 2,6-Dichloro-4-nitropyridine
A solution of 20.9 gm (0.1 mol) of 2,6-dichloro-4-nitropyridine-1-oxide (J. Chem. Soc. B 1967, 1235) in 100 ml of ethylene chloride was heated to boiling and then 27.5 gm (0.2 mol) of phosphorus trichloride were added. The solution obtained was stirred for a further 8 hours under reflux and was then concentrated by evaporation in vacuo. The oily residue which remained was poured into ice water. The crystalline residue formed was recovered by suction filtration and washed neutral with water.

reactant | 2,6-dichloro-4-nitropyridine-1-oxide | 0.1 mol, 20.9 gm | ClC1=[N+](C(=CC(=C1)[N+](=O)[O-])Cl)[O-] | C5H2Cl2N2O3
reactant | phosphorus trichloride | 0.2 mol, 27.5 gm | P(Cl)(Cl)Cl | Cl3P
solvent | ethylene chloride | 100 ml | C(CCl)Cl | C2H4Cl2
product | 2,6-Dichloro-4-nitropyridine | ClC1=NC(=CC(=C1)[N+](=O)[O-])Cl | C5H2Cl2N2O2
